US07834019B2
5) Production of [3-(2-hydroxy-2-methylpropyl)phenyl]boronic acid
In a nitrogen atmosphere at −78° C., 5.5 mL of 1.58 M n-butyllithium/hexane solution was dropwise added to tetrahydrofuran (50 mL) solution of 870 mg of the alcohol obtained in the above 4, then 925 mg of triisopropylboronic acid was dropwise added thereto, and stirred for 20 minutes. Water was added to the reaction solution, and washed with diethyl ether. The aqueous layer was made weakly acidic with 10% phosphoric acid, and then extracted with ethyl acetate. The organic layer was washed with water and saturated saline water in that order, and dried with anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure to obtain 274 mg of the entitled compound. Not purified, this was used in the next reaction.

reactant | n-butyllithium hexane | 1.58 M, 5.5 mL | C(CCC)[Li].CCCCCC
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
reactant | triisopropylboronic acid | 925 mg | C(C)(C)OB(OC(C)C)C(C)C | C9H21BO2
reactant | Water | O | H2O
product | [3-(2-hydroxy-2-methylpropyl)phenyl]boronic acid | 274 mg | OC(CC=1C=C(C=CC1)B(O)O)(C)C | C10H15BO3
